plaintext
* Differential Amplifier Circuit

********** NMOS Transistors **********
* M1 - NMOS
M1 3 3 5 NMOS L=1u W=1u

* M2 - NMOS
M2 4 3 5 NMOS L=1u W=1u

********** PMOS Transistors **********
* M3 - PMOS
M3 3 2 2 PMOS L=1u W=1u

* M4 - PMOS
M4 4 1 2 PMOS L=1u W=1u

********** Resistor **********
* RSS
RSS 5 0 1k

********** Voltage Supplies **********
* VDD Supply
VDD 2 0 DC 5V

* Input Common Mode Voltage
V_IN_CM 3 0 DC 1V

********** End of Netlist **********